US07994171B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methylpyrimidin-2-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide.
To a mixture of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.04 g, 0.099 mmol, 1 eq), 1-(5-methylpyrimidin-2-yl)cyclopropanamine (125 mg, crude), Py-Bop (0.067 g, 0.13 mmol, 1.3 eq) in DMF at ambient temperature under nitrogen was added triethylamine (0.026 g, 0.3 mmol, 3 eq). The clear mixture was stirred at ambient temperature for 12 h. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer was further washed with water, dried over sodium sulphate and concentrated. The product obtained was purified by preparative TLC (Eluent Chloroform: Methanol 9.5:0.5, 200 ml). Yield: 29 mg (54%). 1H NMR (400 MHz, CD3OD): δ 8.50 (d, J=0.5 Hz, 2H), 8.03-7.94 (m, 2H), 7.89-7.82 (m, 2H), 7.69-7.64 (m, 2H), 7.47-7.37 (m, 2H), 7.33-7.24 (m, 2H), 2.96 (s, 3H), 2.36 (s, 3H), 2.29 (s, 3H), 1.77-1.70 (m, 2H), 1.47-1.40 (m, 2H)

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.099 mmol, 0.04 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
reactant | 1-(5-methylpyrimidin-2-yl)cyclopropanamine | 125 mg | CC=1C=NC(=NC1)C1(CC1)N | C8H11N3
reactant | triethylamine | 0.3 mmol, 0.026 g, 3 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(5-methylpyrimidin-2-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C2=NC=C(C=N2)C)=O)C | C32H27FN4O3
